US04621084
6-(3,7-Dimethylimidazo[1,2-a]pyrimidin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (1.3 g) was prepared in substantially the same manner as that of Example 16 from 6-(2-bromopropionyl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (3.0 g) and 2-amino-4-methyl-pyrimidine (3.3 g). mp. 298° C. (dec.).

reactant | 6-(2-bromopropionyl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 3.0 g | BrC(C(=O)C=1C=CC2=C(NC(C(O2)C)=O)C1)C | C12H12BrNO3
reactant | 2-amino-4-methyl-pyrimidine | 3.3 g | NC1=NC=CC(=N1)C | C5H7N3
product | 6-(3,7-Dimethylimidazo[1,2-a]pyrimidin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 1.3 g | CC1=C(N=C2N1C=CC(=N2)C)C=2C=CC1=C(NC(C(O1)C)=O)C2 | C17H16N4O2
